US06458814B1
b) 2-[N-(3-Hydroxy-1-butyl)-N-(tert-butoxycarbonyl)amino]pyridine-N-oxide
To a suspension of 2-[(3-hydroxy-1-butyl)amino]pyridine-N-oxide (895 mg, 4.91 mmole) in tert-butanol (5 mL) was added di-tert-butyl dicarbonate (1.18 g, 5.40 mmole). After 30 hr the mixture was concentrated under reduced pressure. The residue was chromatographed on silica gel (10% MeOH/CHCl3) to give the title compound.(1.34 g, 97%) as a yellow solid: MS (ES) m/e 283 (M+H)+.

reactant | 2-[(3-hydroxy-1-butyl)amino]pyridine-N-oxide | 4.91 mmole, 895 mg | OC(CCNC1=[N+](C=CC=C1)[O-])C | C9H14N2O2
reactant | di-tert-butyl dicarbonate | 5.40 mmole, 1.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butanol | 5 mL | C(C)(C)(C)O | C4H10O
product | 2-[N-(3-Hydroxy-1-butyl)-N-(tert-butoxycarbonyl)amino]pyridine-N-oxide | OC(CCN(C(=O)OC(C)(C)C)C1=[N+](C=CC=C1)[O-])C | C14H22N2O4
